US09102684B2
(5-Bromo-2-nitro-phenyl)-phenyl-acetic acid methyl ester
NaH (1.6 g, 63 mmol) is added portion wise to a solution of phenyl-acetic acid methyl ester (9.0 g, 60 mmol) in DMF (150 mL) at −15° C. and stirred at this temperature for 3 hours. 4-Bromo-2-fluoro-1-nitro-benzene (6.57 g, 30.0 mmol) is added to the above mixture at −15° C. The mixture is warmed to room temperature slowly and stirred for 24 hours. The mixture is diluted with saturated aqueous NH4Cl solution and extracted with ethyl acetate (3×100 mL). The combined organic phase is washed with water and brine, dried over Na2SO4, filtered and concentrated. The residue is purified by chromatography (ethyl acetate:petroleum ether=1:20) to give the desired product.

reactant | NaH | 63 mmol, 1.6 g | [H-].[Na+]
reactant | phenyl-acetic acid methyl ester | 60 mmol, 9.0 g | COC(CC1=CC=CC=C1)=O | C9H10O2
reactant | 4-Bromo-2-fluoro-1-nitro-benzene | 30.0 mmol, 6.57 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | NH4Cl | [NH4+].[Cl-]
product | (5-Bromo-2-nitro-phenyl)-phenyl-acetic acid methyl ester | COC(C(C1=CC=CC=C1)C1=C(C=CC(=C1)Br)[N+](=O)[O-])=O | C15H12BrNO4
